US04254259
Reaction of thiosemicarbazide and ethyl 4-chloroacetoacetate in warm concentrated hydrochloric acid yielded 2-imino-3-aminothiazoline-4-acetic acid (Compound IIIA), which is also obtained by heating the hydrochloride of Compound IA in hydrochloric acid. Refluxing Compound IIIA in ethanolic hydrochloric acid produces the hydrochloride of the corresponding acetate, Compound IIIB (ethyl 2-imino-3-aminothiazoline 4-acetate.)

reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | ethyl 4-chloroacetoacetate | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | hydrochloric acid | Cl | ClH
product | 2-imino-3-aminothiazoline-4-acetic acid | N=C1SC=C(N1N)CC(=O)O | C5H7N3O2S
